US07799928B2
100 g of anhydrous irbesartan hydrochloride was taken in a mixture of 250 ml toluene and 250 ml water. The pH of the reaction mass was adjusted to 6.5 to 7.0 with aqueous ammonia at 25-30° C. and stirred for about 30 minutes and filtered. The product was dried at 60° C. under vacuum to yield Form A of irbesartan free base.

reactant | irbesartan hydrochloride | 100 g | CCCCC1=NC2(CCCC2)C(=O)N1CC3=CC=C(C=C3)C4=CC=CC=C4C5=NNN=N5.Cl
reactant | ammonia | N | H3N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 250 ml | O | H2O
product | irbesartan | CCCCC1=NC2(CCCC2)C(=O)N1CC=3C=CC(=CC3)C=4C=CC=CC4C5=NNN=N5 | C25H28N6O
